spice
* SPICE Netlist for the given circuit

VCC 3 0 DC 2.5
VB 6 0 DC <VB_value>  ; Specify the base voltage value

R1 3 4 200
R2 2 0 500

Q1 5 6 2 QNPN
Q2 4 5 2 QNPN

.model QNPN NPN (IS=1e-15 BF=100)

.end